US04476126
(d) 1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanol
Lithium aluminium hydride (1.41 g) was added to a solution of ethyl 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanoate (3.3 g) in anhydrous tetrahydrofuran (100 ml), under nitrogen, and the mixture stirred at 20° for 18 h. Successively, water (1.4 ml), 5N sodium hydroxide (1.4 ml) and water (3 ml) were added, the mixture was filtered and the filtrate evaporated to give an oil (3.1 g). The oil was chromatographed on silica using dichloromethane:ethanol:0.88 ammonia 70:8:1 as eluent to give the title compound (2.4 g) as a green oil.

reactant | Lithium aluminium hydride | 1.41 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanoate | 3.3 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CCCC(=O)OCC | C24H37N5O3
reactant | water | 1.4 ml | O | H2O
reactant | sodium hydroxide | 5N, 1.4 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-butanol | 3.1 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CCCCO | C22H35N5O2
